* Z:\mnt\design.r\spice\examples\1698.asc
M§Q1 IN N003 N002 N002 IRF7303
M§Q2 N008 N011 N016 N016 IRF7303
V1 IN 0 16
R1 N016 0 25m
C1 N015 0 .001µ
C2 N024 N023 3.3n
R2 N023 N019 100
C3 N010 0 150p
R3 N007 N010 52.3K
L1 N002 N008 1m Rser=10m Rpar=500
L2 N004 N013 1m Rser=10m Rpar=500
L3 N004 OUT 3µ Rser=10m Rpar=1K
C4 OUT 0 500µ Rser=.025
C5 N002 N001 .5µ
D1 IN N001 1N5817
XU1 IN 0 0 0 N007 N010 MP_01 N015 N019 N024 N016 N020 IN 0 N011 MP_02 MP_03 N002 N003 N001 LT3781
D2 N008 IN 1N5818
D3 0 N002 1N5818
XU2 N005 N014 0 0 N028 N018 N026 N006 0 N009 0 N022 0 N029 N025 N017 LTC1698
R4 OUT N009 10K
C6 N025 N020 100p
R5 N025 0 1K
V2 N005 0 8
M§Q3 N013 N017 N021 N021 IRF7303
R6 N021 0 .25m
R7 N021 N022 100
C7 N022 0 1000p
M§Q4 N004 N014 N021 N021 IRF7303
R8 OUT N006 2K
R9 N012 N006 300
C8 N006 N018 1000p
C9 N012 N018 .022µ
R10 0 N006 1K
R11 N028 N027 1K
C10 N028 N027 4.7n
R12 N019 0 1K
XU3 N027 0 N007 N019 NC_04 MOC205 Igain=2.44m
R13 N024 N019 3K
Rload 0 OUT 2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1.
.tran 1.6m startup
.lib LT3781.sub
.lib LTC1698.sub
.lib MOC205.sub
.backanno
.end
